US07365068B2
SYNTHESIS OF 1-(3-PHENOXY-PHENYL)-3-(PYRIDINE-3-CARBONYL)-THIOUREA
Oxalyl chloride (2.8 mL, 32 mmol) is added to a suspension of nicotinic acid (3.7 g, 30 mmol) in methylene chloride (35 ml) followed by 2 drops of DMF. The reaction is refluxed for 1.5 h and all the volatiles are removed on a rotovap. Alternatively, rather than convert nicotinic acid to the acid chloride, commercially available nicotinyl chloride hydrochloride may be used. The solid is resuspended in methylene chloride/acetone (1:1) (50 ml) and an acetone (10 ml) solution of ammonium thiocyanate (3.5 g, 45 mmol) is added. The reaction is stirred for 1 h at room temperature followed by the addition of 3-phenoxy aniline. The stirring is continued over night at room temperature. The solvent is evaporated and the residue suspended in water (100 ml) and extracted with methylene chloride (3×75 ml). The organic layers are combined, dried over sodium sulphate, filtered to remove any insoluble materials and evaporated. The residue is purified by column chromatography on silica gel and crystallized from methanol to give the desired product. MP: 144.5-145.5° C., 1H NMR (300 MHz, DMSO): δ 12.330 (s, 1H), 11.93 (s, 1H), 9.07 (s, 1H), 8.80 (m, 1H), 8.300 (d, 2H, J=8.1 Hz), 7.955 (s, 1H), 7.81 (d, 1H, J=9.0 Hz), 7.57 (m, 1H), 7.299 (d, 1H, J=9.0 Hz), 4.13 (t, 2H, J=6.2 Hz), 1.77-1.72 (m, 2H,), 1.44-1.34 (m, 4H), 0.92-0.87 (t, 3H, J=7.1). MS (APCI) m/z 350.1 [M+H]+.

reactant | Oxalyl chloride | 32 mmol, 2.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | nicotinic acid | 30 mmol, 3.7 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | ammonium thiocyanate | 45 mmol, 3.5 g | [S-]C#N.[NH4+]
reactant | 3-phenoxy aniline | O(C1=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11NO
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1-(3-PHENOXY-PHENYL)-3-(PYRIDINE-3-CARBONYL)-THIOUREA | O(C1=CC=CC=C1)C=1C=C(C=CC1)NC(=S)NC(=O)C=1C=NC=CC1 | C19H15N3O2S
